US05556853
In substantially the same manner as in Example 5, morpholine (280 μl) was condensed with Boc-L-homophenylalanine (900 mg, manufactured by Bachem Fein Chemikalien AG, Switzerland) to give N-(BOC-L-homophenylalanyl)morpholine (1.06 g) as a white powder (yield 95%). After Boc group elimination with 4N HCl/ethyl acetate, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate (338 mg) as obtained in Reference Example 8 to yield the title compound (compound 65; 630 mg) as a white powder (yield 77%).

reactant | Boc-L-homophenylalanine | 900 mg | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | morpholine | 280 μl | N1CCOCC1 | C4H9NO
product | N-(BOC-L-homophenylalanyl)morpholine | 1.06 g, yield 95% | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)N1CCOCC1 | C19H28N2O4
